US07304074B2
The suspension of 2-cyano-3-(6-methyl-pyridin-3-ylamino)-acrylic acid ethyl ester (8.8 g, 38.05 mmol) in diphenylether (190 mL) was heated under refluxing for 5 hrs. After cooling to room temperature, the reaction mixture was poured into nHexane (800 mL) and the solid was collected by filtration and washed with cold THF to give 6-methyl-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carbonitrile (3.86 g, 54.8%). HR-MS-EI (+) m/e calcd for C10H7N3O (M+) 185.0589. found 185.0591.

reactant | 2-cyano-3-(6-methyl-pyridin-3-ylamino)-acrylic acid ethyl ester | 38.05 mmol, 8.8 g | C(C)OC(C(=CNC=1C=NC(=CC1)C)C#N)=O | C12H13N3O2
solvent | diphenylether | 190 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-methyl-4-oxo-1,4-dihydro-[1,5]naphthyridine-3-carbonitrile | 3.86 g, 54.8% | CC=1N=C2C(C(=CNC2=CC1)C#N)=O | C10H7N3O
